US09062032B2
To a mixture of 410 mg of 2-{5-[({2-[(3-{[(5-methoxy-4,4-dimethyl-5-oxopentanoyl)(pentan-3-yl)amino]methyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]pyridin-2-yl}-2-methylpropanoic acid, 75 mg of 4-methylmorpholine and 10 mL of THF was added 0.089 mL of isobutyl chloroformate under ice cooling, followed by stirring for 10 minutes at room temperature. The reaction mixture was filtered, and then the filtrate was cooled with ice. 65 mg of sodium borohydride and 1.0 mL of water were added thereto, followed by stirring for 10 minutes at room temperature. A saturated aqueous ammonium chloride solution was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:2), thereby obtaining 155 mg of methyl 5-[{3-[(3-{[6-(1-hydroxy-2-methylpropan-2-yl)pyridin-3-yl]carbamoyl}-4,5,6,7-tetrahydro-1-benzothiophen-2-yl)carbamoyl]benzyl}(pentan-3-yl)amino]-2,2-dimethyl-5-oxopentanoate.

reactant | 2-{5-[({2-[(3-{[(5-methoxy-4,4-dimethyl-5-oxopentanoyl)(pentan-3-yl)amino]methyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]pyridin-2-yl}-2-methylpropanoic acid | 410 mg | COC(C(CCC(=O)N(C(CC)CC)CC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC=2C=CC(=NC2)C(C(=O)O)(C)C)CCCC3)C=CC1)(C)C)=O | C39H50N4O7S
reactant | 4-methylmorpholine | 75 mg | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.089 mL | ClC(=O)OCC(C)C | C5H9ClO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | methyl 5-[{3-[(3-{[6-(1-hydroxy-2-methylpropan-2-yl)pyridin-3-yl]carbamoyl}-4,5,6,7-tetrahydro-1-benzothiophen-2-yl)carbamoyl]benzyl}(pentan-3-yl)amino]-2,2-dimethyl-5-oxopentanoate | 155 mg | OCC(C)(C)C1=CC=C(C=N1)NC(=O)C1=C(SC2=C1CCCC2)NC(=O)C=2C=C(CN(C(CCC(C(=O)OC)(C)C)=O)C(CC)CC)C=CC2 | C39H52N4O6S
